US07622508B2
b. Preparation of 8-benzyl-3-(3-benzyloxyphenyl)-8-azabicyclo[3.2.1]oct-2-ene
To a solution of the product of the previous step (24.6 g, contaminated with PhNHTf) in THF (120 mL) and DMA (120 mL) at room temperature was added 3-benzyloxyphenylboronic acid (16.46 g), potassium carbonate (19.9 g) and tetrakis(triphenylphosphine)palladium(0) (5.0 g). The resulting mixture was degassed, flushed with nitrogen and then stirred under nitrogen atmosphere overnight. The reaction mixture was filtered through a pad of Celite and the filtrate was concentrated to give a dark thick oil which was purified by flash chromatography (and eluted with 40% ethyl acetate in hexanes) to yield the title intermediate (6.9 g). (m/z): [M+H]+ calcd for C27H27NO 382.22; found 382.5.

reactant | PhNHTf | C1(=CC=CC=C1)NS(=O)(=O)C(F)(F)F | C7H6F3NO2S
reactant | DMA | 120 mL | CC(=O)N(C)C | C4H9NO
reactant | 3-benzyloxyphenylboronic acid | 16.46 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)B(O)O | C13H13BO3
reactant | potassium carbonate | 19.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | THF | 120 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 5.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-benzyl-3-(3-benzyloxyphenyl)-8-azabicyclo[3.2.1]oct-2-ene | 6.9 g | C(C1=CC=CC=C1)N1C2C=C(CC1CC2)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C27H27NO
